US06342765B1
Methyl 2-(4-fluorophenyl)-6-methylpyridin-3-carboxylate (17.3 g) was dissolved in dichloromethane (600 ml), the solution cooled to 0° C. and MCPBA (24.3 g) added in portions over 25 minutes. The solution was then warmed to ambient temperature and stirred for 16 hours washed with saturated aqueous sodium bicarbonate (500 ml), dried and concentrated under reduced pressure. The residue was purified by flash column chromatography, eluting with methanol/ethyl acetate (1:12) to give 2-(4-fluorophenyl)-3-(methoxycarbonyl)-6-methylpyridine-1-oxide as a pale yellow oil which crystallised on standing (18.6 g).

reactant | Methyl 2-(4-fluorophenyl)-6-methylpyridin-3-carboxylate | 17.3 g | FC1=CC=C(C=C1)C1=NC(=CC=C1C(=O)OC)C | C14H12FNO2
reactant | MCPBA | 24.3 g | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
solvent | dichloromethane | 600 ml | ClCCl | CH2Cl2
product | 2-(4-fluorophenyl)-3-(methoxycarbonyl)-6-methylpyridine-1-oxide | FC1=CC=C(C=C1)C1=[N+](C(=CC=C1C(=O)OC)C)[O-] | C14H12FNO3
